US04987132
To a solution of 600 mg of N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid in 10 ml of tetrahydrofuran, there were added, at 4° C. or below, 200 mg of 3-methylthiopropylamine, 390 mg of 1-hydroxybenzotriazole and 440 mg of dicyclohexylcarbodiimide, in that order, and the mixture was stirred at room temperature for 3 hours. The resultant precipitate was filtered off, the filtrate was concentrated under reduced pressure, and the residue was dissolved in 50 ml or ethyl acetate. The ethyl acetate solution was washed in sequence with 0.5M aqueous citric acid, water, saturated aqueous solution of sodium carbonate and water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 250 mg of N-(3-methylthiopropyl)-3-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxamide. Trifluoroacetic acid (2 ml) was added to 250 mg of the thus-obtained compound with ice cooling, and the mixture was treated in the same manner as in Example 4 to give 130 mg of N-(3-methylthiopropyl)-2-(3-pyridyl)thiazolidine-4-carboxamide dihydrochloride as an oil.

reactant | N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid | 600 mg | C(C)(C)(C)OC(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C14H18N2O4S
reactant | 3-methylthiopropylamine | 200 mg | CSCCCN | C4H11NS
reactant | 1-hydroxybenzotriazole | 390 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 440 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(3-methylthiopropyl)-3-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxamide | 250 mg | CSCCCNC(=O)C1N(C(SC1)C=1C=NC=CC1)C(=O)OC(C)(C)C | C18H27N3O3S2
